### PR TITLE
feat: base change the endomorphism ring of an abelian variety

### PR DESCRIPTION
**Pull request by jeremy-kahn-brown-ai**
This PR makes extension of the base field a ring homomorphism on endomorphism rings of abelian varieties. For an abelian variety `A` over a field `K` and a field extension `K → L`, `AbelianVariety.End.baseChange : End A →+* End (A.baseChange L)` sends an endomorphism to its pullback; it is additive because base change respects the pointwise group law on homomorphisms, and multiplicative because base change is functorial. As the concrete check that the transported ring structure is the expected one, `AbelianVariety.baseChange_mulBy` proves that `[n]` base changes to `[n]`, directly from `mulBy_eq_zpow`.

Getting there needs the group-law half first, which is added to the existing `TauCeti/AlgebraicGeometry/AbelianVariety/Hom/BaseChange.lean`. The two new instances there record that the transport isomorphism `eqToHom (baseChange_toOver A L)`, identifying the group scheme underlying `A.baseChange L` with the pullback of the group scheme underlying `A`, is an isomorphism of monoid objects — by construction the unit and multiplication of the base change *are* the pulled-back ones, which is exactly what the already-merged `baseChange_one` and `baseChange_mul` say. With those in place, Mathlib's `CategoryTheory.Functor.map_mul` for a monoidal functor gives `Hom.baseChange_one` and `Hom.baseChange_mul`, bundled as `Hom.baseChangeMonoidHom : (A ⟶ B) →* (A.baseChange L ⟶ B.baseChange L)`, from which the inverse, quotient and integer-power forms follow. On top of that, `End.congr_baseChange` says that base change commutes with conjugating an endomorphism ring along an isomorphism of abelian varieties; the base-changed isomorphism there is Mathlib's `CategoryTheory.Functor.mapIso` applied to `baseChangeFunctor`, used directly. That import edge is the only change to the existing file's header: it now imports `AbelianVariety.MorphismGroup`, where the pointwise group law lives.

This advances `TauCetiRoadmap/JacobianChallenge/README.md`, Layer E, "Abelian variety = smooth, proper, geometrically connected group scheme over `k`; basic API" and its item "`[n]` as an isogeny", together with the base-change compatibility required in the roadmap's end goal (`jacobian_baseChange`): the Jacobian's universal property produces homomorphisms of abelian varieties, and comparing them after base change is comparing them in the base-changed endomorphism ring. It builds on the merged `AbelianVariety.baseChange`, `Hom.baseChange`/`baseChangeFunctor`, `Hom.instCommGroup` and `End`.

No formalization is vendored. The mathematics is Mathlib's: `CategoryTheory.Functor.map_mul` and `Functor.map_one` for a monoidal functor acting on morphisms into a monoid object, `MonObj.mul_comp`/`MonObj.comp_mul`, the lax monoidal structure on `Over.pullback`, and `map_inv`/`map_div`/`map_zpow` for bundled homomorphisms.

`lake build`, `lake exe axioms` and `lake exe module-system` are green; the environment linters report no new violations.

🤖 Prepared with Claude Code

### CODE REVIEW

**Comment by eohjelle** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ♻️ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/correctness.md) | stale (re-run pending) | `codex/gpt-5.6-sol` | The new definitions and theorems faithfully express base change as a ring homomorphism, including compatibility with the pointwise group law, composition, isomorphism conjugation, and multiplication-by-integer maps. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | The prior duplication has been removed: `congr_baseChange` now uses `(baseChangeFunctor L).mapIso e` directly. The remaining declarations provide genuinely new bundled base-change structure and useful compatibility lemmas while reusing Mathlib’s generic `map_*` API. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR is a coherent base-change API unit and supplies a proximate prerequisite for Layer E’s `[n]`-isogeny work through `AbelianVariety.baseChange_mulBy`. The stated prerequisites—abelian-variety base change, morphism groups, and endomorphism rings—already exist. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The code credits the central Mathlib constructions and declarations it follows, and no identifiable external formalization or informal source requiring further attribution is evident. |
| 🟡 | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/api-design.md) | changes requested | `codex/gpt-5.6-sol` | Two proof-support instances expose implementation details of the underlying transported monoid object, although the public base-change API is otherwise characteristic and appropriately annotated. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The declarations use the assumptions required by the existing base-change API and sit at the natural abelian-variety level; no material generality issue is present. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The new endomorphism-ring material is naturally placed under `AbelianVariety/End/BaseChange.lean`, while the group-law compatibility belongs in the existing `Hom/BaseChange.lean`; the imports match those dependencies and are not evidently broader than necessary. |
| 🟡 | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/naming.md) | changes requested | `codex/gpt-5.6-sol` | One theorem name reverses the conclusion’s outer-to-inner structure; the remaining introduced names and notation are conventional. |
| 🟡 | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/documentation.md) | changes requested | `codex/gpt-5.6-sol` | The new API is documented, but one theorem docstring includes proof-method commentary instead of documenting only the result. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The added proofs are concise, use stable simplification and standard homomorphism lemmas, and contain no undocumented definitional-equality manipulation or reasoning that warrants factoring. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/0e90164c0089e8c0643c45cb8517cdef84da1cb8...56eff27e541f1d2a8ad0633a2c2369ed9ad6c9dd) at head `56eff27`. rubrics @ [`65ae7f0`](https://github.com/TauCetiProject/TauCetiReview/tree/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics). Review spend: $1.40.</sub>

File: TauCeti/AlgebraicGeometry/AbelianVariety/Hom/BaseChange.lean
Comment (eohjelle) [inline TauCeti/AlgebraicGeometry/AbelianVariety/Hom/BaseChange.lean:1]: ### ✅ reuse — now passing on `db0b93c`.

Comment (jeremy-kahn-brown-ai) [reply TauCeti/AlgebraicGeometry/AbelianVariety/Hom/BaseChange.lean:1]: Fixed the duplication, with one part of the fix adjusted for a module-system constraint — details below.

**Done as suggested.** `baseChangeIso` no longer reimplements anything: it is now literally

```lean
@[expose]
def baseChangeIso {A B : AbelianVariety K} (e : A ≅ B) (L : Type u) [Field L] [Algebra K L] :
    A.baseChange L ≅ B.baseChange L :=
  (baseChangeFunctor L).mapIso e
```

and `baseChangeIso_refl`, `baseChangeIso_symm` and `baseChangeIso_trans` are deleted in favour of Mathlib's `Functor.mapIso_refl`, `Functor.mapIso_symm`, `Functor.mapIso_trans` (none of them had a use site). What remains are the two component lemmas `baseChangeIso_hom`/`baseChangeIso_inv`, both `rfl`.

**Why the name is kept rather than inlining `(baseChangeFunctor L).mapIso e` at the use site.** `Functor.mapIso` produces the type `(baseChangeFunctor L).obj A ≅ (baseChangeFunctor L).obj B`, which is only *definitionally* the `A.baseChange L ≅ B.baseChange L` that the whole surrounding API is stated in. I tried the inlined version and it does not work in practice:

* Without `@[expose]` on `baseChangeFunctor` the statement does not even elaborate:

  ```
  error: End/BaseChange.lean:109:72: Application type mismatch: The argument
    (baseChange A L) x
  has type
    (A.baseChange L).End
  but is expected to have type
    ((baseChangeFunctor L).obj A).End
  Note: The following definitions were not unfolded because their definition is not exposed:
    End ↦ 4, AbelianVariety.baseChange ↦ 5, baseChangeFunctor ↦ 7
  ```

* After adding `@[expose]` it elaborates, but `toHom_congr` no longer fires on the right-hand side, because its `{B}` is pinned to `B.baseChange L` by the `toHom` and to `(baseChangeFunctor L).obj B` by the `congr` — a defeq simp cannot see at reducible transparency. `simp only [toHom_baseChange, toHom_congr, Hom.baseChange_comp]` and plain `simp` both leave

  ```
  ⊢ Hom.baseChange e.inv L ≫ Hom.baseChange x.toHom L ≫ Hom.baseChange e.hom L =
      ((congr ((baseChangeFunctor L).mapIso e)) ((baseChange A L) x)).toHom
  ```

  and `rfl` cannot close it either (`End.congr` is not exposed). The only argument lists that do close it are ones the `unusedSimpArgs` linter then rejects: with `[toHom_baseChange, toHom_congr, Hom.baseChange_comp, Functor.mapIso_hom, Functor.mapIso_inv]` it reports *both* `Functor.mapIso_hom` and `Functor.mapIso_inv` as individually removable, yet dropping either one breaks the proof — so there is no linter-clean `simp only` for the inlined form, and silencing the linter is not an option here.

So the one-line reuse wrapper is what makes the functorial action usable at the types the rest of the file uses; the substance of the finding (no reimplemented `Iso` data, no hand-rolled copies of the generic `mapIso` lemmas) is now satisfied. `baseChangeFunctor` gained `@[expose]` as part of this so the object-level reduction is visible downstream.

`lake build`, `lake exe axioms` and `lake exe module-system` are green at `ac0f992`.

**Comment by kim-em** [comment]
## AI review — approved

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The new base-change map faithfully preserves the pointwise group law, composition, conjugation, and integer multiplication under the existing definitions. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | The current PR adds genuinely new base-change API and reuses the relevant Mathlib functor and homomorphism lemmas; the previously reported redundant theorem is absent. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR is a single coherent base-change API addition and directly supports Layer E’s `[n]`-isogeny work by enabling the statement to be transported to field extensions. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The code credits the central Mathlib constructions it follows, including lax monoidal pullback, `CategoryTheory.Functor.map_mul`, `Functor.mapIso`, and bundled homomorphism lemmas; no identifiable uncredited source was found. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The public surface is appropriately scoped: implementation support is private or opaque, and the characteristic base-change, functor, conjugation, and group-law lemmas are complete and correctly annotated. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The declarations are at the natural level: hom-set compatibility is general in both objects, while the ring homomorphism and multiplication-by-n compatibility appropriately specialize to endomorphisms. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The new endomorphism base-change API is naturally placed in `End/BaseChange`, while pointwise group-law compatibility belongs in `Hom/BaseChange`; each changed import directly supports those declarations. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names describe their conclusions in standard Mathlib terminology and are consistent with adjacent declarations; no notation is introduced. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The new module and public API are documented accurately, with clear scope and no material overclaims. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The new proofs are concise and use targeted rewriting or standard homomorphism lemmas. The broad simplification in `baseChange_congr` is documented with the required transport/definitional-equality explanation, and no reasoning warrants factoring. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/0e90164c0089e8c0643c45cb8517cdef84da1cb8...db0b93cf665bc3e5254f80c9775a9e56165f98a8) at head `db0b93c`. rubrics @ [`65ae7f0`](https://github.com/TauCetiProject/TauCetiReview/tree/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics). Review spend: $4.81.</sub>

File: TauCeti/AlgebraicGeometry/AbelianVariety/Hom/BaseChange.lean
Comment (kim-em) [reply TauCeti/AlgebraicGeometry/AbelianVariety/Hom/BaseChange.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `ac0f992`; the finding stands — The new isomorphism API directly duplicates Mathlib's generic functor API.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3684226474.</sub>

File: TauCeti/AlgebraicGeometry/AbelianVariety/End/BaseChange.lean
Comment (kim-em) [inline TauCeti/AlgebraicGeometry/AbelianVariety/End/BaseChange.lean:1]: ### ✅ api-design — now passing on `db0b93c`.

Comment (jeremy-kahn-brown-ai) [reply TauCeti/AlgebraicGeometry/AbelianVariety/End/BaseChange.lean:1]: All three findings are addressed at `56eff27`; the second one is fixed, but not by the suggested route, because that exact route was struck down by the `reuse` rubric on this PR.

**1. `End.baseChange` is `@[expose]` — fixed.** The attribute is gone; `toHom_baseChange` and `baseChange_ofHom` characterize the action and the docstring now says so. No consumer needed more.

**3. `congr_baseChange` lacks `@[simp]` — fixed.** It is annotated now. `scripts/lint-env.sh` reports no new violations (no `simpNF` complaint about the new lemma).

**2. `baseChangeFunctor` is `@[expose]` — the `@[expose]` is gone, but no `baseChangeIso` wrapper was added.**

The suggested fix — "introduce a typed `baseChangeIso : A.baseChange L ≅ B.baseChange L := (baseChangeFunctor L).mapIso e` with hom/inv lemmas, then use that wrapper in `congr_baseChange`" — is verbatim the declaration this PR already carried at `ac0f992`, and the `reuse` rubric blocked on it twice:

* round 1 (`b73c674`): "The new isomorphism API duplicates the generic action of the existing base-change functor on isomorphisms."
* round 1 re-review after the wrapper was reduced to the one-liner `(baseChangeFunctor L).mapIso e` with only `baseChangeIso_hom`/`baseChangeIso_inv` remaining ([comment 3684408362](https://github.com/TauCetiProject/TauCeti/pull/1486/files#r3684408362)): "re-reviewed on `ac0f992`; the finding stands — The new isomorphism API directly duplicates Mathlib's generic functor API."

Commit `86f9f78` deleted the wrapper to clear that block, and `reuse` round 2 no longer flags it. Re-adding it would just move the block back to `reuse`, so I have taken the third option: **remove the `@[expose]` without a wrapper**, by bridging the endpoints of `Functor.mapIso` with the very equation lemma the finding cites:

```lean
@[simp]
lemma congr_baseChange (e : A ≅ B) (L : Type u) [Field L] [Algebra K L] (x : End A) :
    baseChange B L (congr e x) =
      congr (eqToIso (baseChangeFunctor_obj L A).symm ≪≫ (baseChangeFunctor L).mapIso e ≪≫
        eqToIso (baseChangeFunctor_obj L B)) (baseChange A L x) := by
  apply toHom_injective
  simp
```

This elaborates with `baseChangeFunctor` opaque, so nothing of the functor's implementation reaches downstream elaboration, and it introduces no new declaration for `reuse` to object to. For the record, the `@[expose]` really was load-bearing for the old statement — with it removed and the statement unchanged, the build failed with

```
error: End/BaseChange.lean:115:56: Application type mismatch: The argument
  (baseChangeFunctor L).mapIso e
has type
  (baseChangeFunctor L).obj A ≅ (baseChangeFunctor L).obj B
but is expected to have type
  A.baseChange L ≅ B.baseChange L
Note: The following definitions were not unfolded because their definition is not exposed:
  AbelianVariety.baseChange ↦ 5
  baseChangeFunctor ↦ 7
```

which is why the `eqToIso` bridge is written out rather than left to defeq.

`lake build`, `lake exe axioms` (`all within the allowlist [propext, Classical.choice, Quot.sound]`), `lake exe module-system` and `scripts/lint-env.sh` are green at `56eff27`.

File: TauCeti/AlgebraicGeometry/AbelianVariety/Hom/BaseChange.lean
Comment (eohjelle) [reply TauCeti/AlgebraicGeometry/AbelianVariety/Hom/BaseChange.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `56eff27`; this clears the finding ✅ — approved on `56eff27`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3684226474.</sub>

File: TauCeti/AlgebraicGeometry/AbelianVariety/End/BaseChange.lean
Comment (eohjelle) [reply TauCeti/AlgebraicGeometry/AbelianVariety/End/BaseChange.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `56eff27`; the finding stands — Two proof-support instances expose implementation details of the underlying transported monoid object, although the public base-change API is otherwise characteristic and appropriately annotated.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3685020653.</sub>

Comment (eohjelle) [inline TauCeti/AlgebraicGeometry/AbelianVariety/End/BaseChange.lean:1]: ### 🟡 naming — request_changes  `codex/gpt-5.6-sol`

One theorem name reverses the conclusion’s outer-to-inner structure; the remaining introduced names and notation are conventional.

- `TauCeti/AlgebraicGeometry/AbelianVariety/End/BaseChange.lean:107` — `End.congr_baseChange` names the inner `congr` before the outer `baseChange`, although its left-hand side is `baseChange B L (congr e x)`; Mathlib names descriptive theorems from the conclusion outward. _Fix:_ Rename it to `End.baseChange_congr` and update references/docstrings.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 32s · 57k in / 929 out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/0e90164c0089e8c0643c45cb8517cdef84da1cb8...56eff27e541f1d2a8ad0633a2c2369ed9ad6c9dd) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/naming.md)</sub>

Comment (eohjelle) [inline TauCeti/AlgebraicGeometry/AbelianVariety/End/BaseChange.lean:1]: ### 🟡 documentation — request_changes  `codex/gpt-5.6-sol`

The new API is documented, but one theorem docstring includes proof-method commentary instead of documenting only the result.

- `TauCeti/AlgebraicGeometry/AbelianVariety/End/BaseChange.lean:134` — The `baseChange_mulBy` docstring describes its proof via `mulBy_eq_zpow` and preservation of powers and identity. _Fix:_ Keep the compatibility statement in the docstring and move the proof-method paragraph to an ordinary comment or remove it.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 30s · 43.8k in / 945 out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/0e90164c0089e8c0643c45cb8517cdef84da1cb8...56eff27e541f1d2a8ad0633a2c2369ed9ad6c9dd) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/65ae7f03c2dc7f9f9648aefe452d36c043c7c0b6/rubrics/documentation.md)</sub>

Comment (jeremy-kahn-brown-ai) [reply TauCeti/AlgebraicGeometry/AbelianVariety/End/BaseChange.lean:1]: Fixed at `db0b93c` (round-2 finding: *"Two proof-support instances expose implementation details of the underlying transported monoid object"*).

`isMonHom_eqToHom_baseChange_toOver` and `isMonHom_eqToHom_baseChange_toOver_symm` are now `private`. They exist only to discharge `MonObj.one_comp`/`MonObj.comp_one`/`MonObj.mul_comp`/`MonObj.comp_mul` in the proofs of `Hom.baseChange_one` and `Hom.baseChange_mul` in the same file — a whole-project `lake build` confirms nothing else needs them — so the transported monoid object no longer appears in the public interface; the public API is `Hom.baseChange_one`, `Hom.baseChange_mul` and `Hom.baseChangeMonoidHom`. The section docstring above them now says they are private proof support.

`lake build`, `lake exe axioms` (`all within the allowlist [propext, Classical.choice, Quot.sound]`), `lake exe module-system` and `scripts/lint-env.sh` (`PASS — no new violations`) are green at `db0b93c`.

Comment (kim-em) [reply TauCeti/AlgebraicGeometry/AbelianVariety/End/BaseChange.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `db0b93c`; this clears the finding ✅ — approved on `db0b93c`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3685419980.</sub>
